US07342039B2
1-Benzyl-1H-indole-3-carbaldehyde oxime (1.752 g, 60%) was prepared from 1-benzyl-1H-indole-3-carbaldehyde and hydroxylamine hydrochloride using a procedure similar to Step 6 of example 1. 1H NMR (400 MHz, DMSO-d6); δ 11.30 (s, 1H), 8.40 (s, 1H), 7.88 (d, 1H), 7.80 (s, 1H), 7.50 (d, 1H), 7.22 (m, 7H), 5.50 (s, 2H).

reactant | 1-benzyl-1H-indole-3-carbaldehyde | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C16H13NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-Benzyl-1H-indole-3-carbaldehyde oxime | 1.752 g, 60% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=NO | C16H14N2O
